US07816353B2
To a 25 mL recovery flask was added 2-(4-Amino-6-chloro-[1,3,5]triazin-2-yloxy)-N-(3-trifluoromethyl-phenyl)-acetamide (33 mg, 0.0950 mmol, 1.0 eq.) and CH2Cl2 (7 mL). Sodium thiomethoxide (20 mg, 0.285 mmol, 3.0 eq.) was added and the resulting solution was stirred at room temperature for 1 h. The reaction was diluted with CH2Cl2 (50 mL) and washed with H2O (1×50 mL) and brine (1×50 mL). The combined aqueous phases were extracted with CH2Cl2 (2×25 mL). The combined organic phases were dried over anhydrous sodium sulfate, filtered, and concentrated to give a brown solid. The crude material was purified via preparative HPLC to give 2-(4-Amino-6-methylsulfanyl-[1,3,5]triazin-2-yloxy)-N-(3-trifluoromethyl-phenyl)-acetamide as a white solid (6.2 mg, 24% yield). LC/MSD (HP Series 1100 MSD) Expected MW: 359.07, Observed M+H, 360.1, Retention time: 1.40. Analytical LC: 98%, Retention time: 4.87 (11 minute run). 1H-NMR, CH3OH-d4, Varian 400 MHz δ 8.01 (s, 1H), 7.81 (d, 1H), 7.51 (t, 1H), 7.40 (d, 1H), 4.94 (s, 2H), 2.46 (3H) ppm.

reactant | 2-(4-Amino-6-chloro-[1,3,5]triazin-2-yloxy)-N-(3-trifluoromethyl-phenyl)-acetamide | 0.0950 mmol, 33 mg, 1.0 eq. | NC1=NC(=NC(=N1)Cl)OCC(=O)NC1=CC(=CC=C1)C(F)(F)F | C12H9ClF3N5O2
reactant | Sodium thiomethoxide | 0.285 mmol, 20 mg, 3.0 eq. | C[S-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Amino-6-methylsulfanyl-[1,3,5]triazin-2-yloxy)-N-(3-trifluoromethyl-phenyl)-acetamide | 6.2 mg, 24% yield | NC1=NC(=NC(=N1)SC)OCC(=O)NC1=CC(=CC=C1)C(F)(F)F | C13H12F3N5O2S
